US08309579B2
Step b) Formation of (2S)-2-{[(benzyloxy)(tert-butoxycarbonyl)amino]methyl}-4-methyl pentanoic acid
A solution of tert-butyl ((2S)-2-{[(4R)-4-benzyl-2-oxo-1,3-oxazolidin-3-yl]carbonyl}-4-methylpentyl)(benzyloxy)carbamate (1.66 g, 3.25 mmol), LiOH (156 mg, 6.5 mmol, 2 eq.) and an aqueous solution of H2O2 (30%, 1.33 mL, 4 eq.), was stirred overnight. A saturated solution of Na2SO3 was added at 0° C. The mixture was extracted with a saturated solution of NaHCO3, washed with DCM (3×). The aqueous layer was saturated with NaCl, acidified up to pH 2 with an aqueous solution of HCl (5 N), then extracted with DCM (2×), EtOAc (2×), Et2O (2×). The combined organic layers were dried over MgSO4, filtered and evaporated to give 300 mg of the title product as a colorless oil used as such in the next step. M− (LC-MS (ESI)): 350.3.

reactant | tert-butyl ((2S)-2-{[(4R)-4-benzyl-2-oxo-1,3-oxazolidin-3-yl]carbonyl}-4-methylpentyl)(benzyloxy)carbamate | 3.25 mmol, 1.66 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(=O)[C@H](CN(C(OC(C)(C)C)=O)OCC1=CC=CC=C1)CC(C)C | C29H38N2O6
reactant | LiOH | 6.5 mmol, 156 mg, 2 eq. | [Li+].[OH-]
reactant | H2O2 | 1.33 mL, 4 eq. | OO | H2O2
reactant | Na2SO3 | [O-]S(=O)[O-].[Na+].[Na+]
product | (2S)-2-{[(benzyloxy)(tert-butoxycarbonyl)amino]methyl}-4-methyl pentanoic acid | 300 mg | C(C1=CC=CC=C1)ON(C(=O)OC(C)(C)C)C[C@@H](C(=O)O)CC(C)C | C19H29NO5
